US09035059B2
2-[1-(4-tert-Butylphenyl)-2-methylpropan-2-yl]-N-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide
Trifluoroacetic acid (0.2 mL) was added to a solution of 2-[1-(4-tert-butylphenyl)-2-methylpropan-2-yl]-N-(2,4-dimethoxybenzyl)-N-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide obtained (22 mg) in a mixture of anisole (1 mL) and chloroform (1 mL) while cooling in ice, and the mixture was stirred for 2.5 hr while cooling in ice. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture while cooling in ice and the mixture was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and then the desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by NH silica gel column chromatography (chloroform:methanol=49:1) to afford the title compound as a colorless oil (8 mg).

reactant | Trifluoroacetic acid | 0.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-[1-(4-tert-butylphenyl)-2-methylpropan-2-yl]-N-(2,4-dimethoxybenzyl)-N-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | C(C)(C)(C)C1=CC=C(C=C1)CC(C)(C)N1CC2=CC=C(C=C2CC1)S(=O)(=O)N(C1=CC=C(C=C1)F)CC1=C(C=C(C=C1)OC)OC | C38H45FN2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | anisole | 1 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[1-(4-tert-Butylphenyl)-2-methylpropan-2-yl]-N-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | 8 mg | C(C)(C)(C)C1=CC=C(C=C1)CC(C)(C)N1CC2=CC=C(C=C2CC1)S(=O)(=O)NC1=CC=C(C=C1)F | C29H35FN2O2S
